US09359375B2
A mixture of (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-3-(pyridin-2-yl)propanamide (125 mg, 0.344 mmol), 5-amino-3-methylisothiazole hydrochloride (80 mg, 0.531 mmol), K2CO3 (220 mg, 1.59 mmol), BINAP (40 mg, 0.064 mmol) and Pd(OAc)2 (30 mg, 0.133 mmol) in dioxane (3 mL) was degassed with argon, then was stirred at 120 C for 18 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-3-(pyridin-2-yl)propanamide (53 mg).

reactant | (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-3-(pyridin-2-yl)propanamide | 0.344 mmol, 125 mg | BrC=1C(=CC(=C(C1)N[C@@H](C(=O)N)CC1=NC=CC=C1)F)C#N | C15H12BrFN4O
reactant | 5-amino-3-methylisothiazole hydrochloride | 0.531 mmol, 80 mg | Cl.NC1=CC(=NS1)C
reactant | K2CO3 | 1.59 mmol, 220 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.064 mmol, 40 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.133 mmol, 30 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-3-(pyridin-2-yl)propanamide | 53 mg | C(#N)C1=CC(=C(C=C1NC1=CC(=NS1)C)N[C@@H](C(=O)N)CC1=NC=CC=C1)F | C19H17FN6OS
